US04777172
A mixture of 4-chloromethyl-5-methyl-6-piperidino pyrimidine hydrochloride (4.63 g) and 2-mercapto-5-methoxybenzimidazole (3.18 g) in ethanol (180 ml) were heated at 50° for 5 hours. The solution was stripped to a residual glass, to which water was added, the pH raised to 13 (NaOH), and extracted with chloroform. Extracts were dried (K2CO3) and stripped to a residual glass which crystallised from ethyl acetate to give 5-methoxy-2-(5-methyl-6-piperidino-4-pyrimidinylmethylthio)-(1H)-benzimidazole, 5.67 g, m.p. 94°-96°.

reactant | 4-chloromethyl-5-methyl-6-piperidino pyrimidine hydrochloride | 4.63 g | Cl.ClCC1=NC=NC(=C1C)N1CCCCC1
reactant | 2-mercapto-5-methoxybenzimidazole | 3.18 g | SC=1NC2=C(N1)C=CC(=C2)OC | C8H8N2OS
reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 5-methoxy-2-(5-methyl-6-piperidino-4-pyrimidinylmethylthio)-(1H)-benzimidazole | COC1=CC2=C(NC(=N2)SCC2=NC=NC(=C2C)N2CCCCC2)C=C1 | C19H23N5OS
